US07618975B2
(4-Difluoromethoxy-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine
The title compound was prepared from (4-difluoromethoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine (710 mg, 2.36 mmol) and methyl iodide (1.03 ml, 16.52 mmol), by a procedure similar to Example 36 (40.8% yield). 1H NMR (CDCl3): 7.77 (dd, J=8.4 Hz, J=0.9 Hz, 1H), 7.59-7.53 (m, 1H), 7.17-7.10 (m, 4H), 7.06-6.99 (m, 2H), 6.78 (d, J=0.6 Hz, 0.25H), 6.54 (d, J=0.9 Hz, 0.5H), 6.29 (d, J=0.9 Hz, 0.25H), 3.62 (s, 3H), 2.75 (s, 3H).

reactant | (4-difluoromethoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine | 2.36 mmol, 710 mg | FC(OC1=CC=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C)F | C16H13F2N3O
reactant | methyl iodide | 16.52 mmol, 1.03 ml | CI | CH3I
product | (4-Difluoromethoxy-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine | FC(OC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C)F | C17H15F2N3O
